US07834001B2
4-Bromo-3-chlorosulfonyl-benzoic acid
Chlorosulfonic acid (70 mL, 1.05 mol) cooled to 0° C. was added dropwise with stirring to 4-bromo-benzoic acid (50 g, 0.29 mol). The reaction mixture was heated at 110° C. for 10 h, cooled to room temperature and poured onto crushed ice slowly with stirring. The title compound obtained was filtered, washed with water and dried. Yield: 51 g, (84%); mp: 198-199° C.; MS: m/e (EI+) 299 (M+).

reactant | Chlorosulfonic acid | 1.05 mol, 70 mL | ClS(=O)(=O)O | ClHO3S
reactant | 4-bromo-benzoic acid | 0.29 mol, 50 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
product | 4-Bromo-3-chlorosulfonyl-benzoic acid | BrC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)Cl | C7H4BrClO4S
